* G:\repos\mcguitarpedal\preamp\SPICE Files\LTspice\Preamp_noise_noninv.asc
VIN N005 0 SINE(0 100m 3k) AC 1
V2 Vp 0 9
V3 Vn 0 0
V1 Vref 0 5
XSTAGE1 STAGE1_OUT N004 Vp Vn Vref stagea_lowpasssallenkey_ada4898
C1 STAGE1_OUT N003 470n
R N006 NC_01 8.2k
L§Coil N006 FILTER_IN 2.35
C2 FILTER_IN 0 570p
R3 FILTER_IN 0 200k
C3 PREAMP_IN N005 470n
R4 Vp PREAMP_IN {R}
Rf N003 N002 2k
C4 PREAMP_OUT N004 470n
V4 3.3V 0 3.3
R8 3.3V PREAMP_OUT 100k
R9 PREAMP_OUT 0 100k
R2 PREAMP_IN 0 {R}
Rg N002 N001 1k
R5 Vp STAGE1_OUT {R}
R6 STAGE1_OUT 0 {R}
XLME49710 PREAMP_IN N002 Vp Vn N003 LME49710
R1 Vp N001 {R}
R7 N001 0 {R}
C5 N001 0 100n
C6 PREAMP_IN 0 100n

* block symbol definitions
.subckt stagea_lowpasssallenkey_ada4898 IN OUT V+ V- REF
R2 N002 N001 2.2k
R1 N001 IN 1k
C2 N002 REF 2.2n
C1 OUT N001 4.7n
XU1 N002 OUT V+ V- OUT Vp ADA4898
.ends stagea_lowpasssallenkey_ada4898

* .ac dec 100 1 150k\n.save V(*?*) I(*?*)
* If you're having trouble with simulation try the following:\n \n- Ensure that LTspice circuit folder is unzipped.  LTspice won't \nbe able to locate subcircuits if the folders are still zipped.\n \n- Update LTspice - devices that have been recently added to LTspice\nwon't be available unless you update by clicking Tools -> Sync Release.
* .noise V(PREAMP_OUT) VIN dec 100 2k 1Meg
.param R=100k
.tran 0 50ms 0 100ns
.lib LME49710.lib
.lib ADA4898.lib
.backanno
.end
